US08349851B2
To crude (4-(5-ethyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)(4-fluorophenyl)methanone (104 mg, 0.28 mmol) in 1:1 MeOH/THF (4 mL) at rt was added sodium borohydride (22 mg, 0.57 mmol), and the solution was stirred for 30 min, after which 4N HCl (0.1 mL) was added. The mixture was concentrated to dryness, and the residue was purified by preparative HPLC (Varian diphenyl reverse phase column, eluting with a gradient of solvent B=0.05% HOAc/ACN and solvent A=0.05% HOAc/H2O) to afford (4-(5-ethyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)(4-fluorophenyl)methanol (7 mg). 1H NMR (300 MHz, DMSO-d6) δ 1.24 (t, 3H) 2.62 (q, 2H) 5.67 (m, 1H) 5.83 (s, 1H) 6.45 (s, 1H) 7.13 (t, 2H) 7.53-7.57 (m, 3H) 7.81 (s, 2H) 8.59 (d, 1H) 10.42 (bs, 1H) 12.15 (bs, 1H); LC-MS (ESI) m/z 364 (M+H)+.

reactant | (4-(5-ethyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)(4-fluorophenyl)methanone | 0.28 mmol, 104 mg | C(C)C1=CC(=NN1)NC1=NC(=NC2=CC=CC=C12)C(=O)C1=CC=C(C=C1)F | C20H16FN5O
reactant | sodium borohydride | 0.57 mmol, 22 mg | [BH4-].[Na+]
reactant | HCl | 4N, 0.1 mL | Cl | ClH
solvent | MeOH THF | 4 mL | CO.C1CCOC1
product | (4-(5-ethyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)(4-fluorophenyl)methanol | 7 mg | C(C)C1=CC(=NN1)NC1=NC(=NC2=CC=CC=C12)C(O)C1=CC=C(C=C1)F | C20H18FN5O
